US05143914
To a stirred solution of 2-(hydroxymethyl)-5-(3'-bromophenyl)thiophene (1.08 G; 4 mM) and triethylamine (1.4 mL; 10 mM) in 20 ml of methylene chloride at R.T. was added t-butyldimethylchlorosilane (1.5 g; 10 mM). This mixture was stirred overnight, diluted with 30 ml of ethyl acetate, washed with 2×15 ml of sat'd. sodium chloride solution, and dried over anhyd. magnesium sulfate. Solvent was removed to give a residue, which was purified on silica gel with ether: petroleum ether (1:20) as solvent mixture. Eluate was distilled to give 0.99 g of 2-(t-butyldimethylsilyloxymethyl)-5-(3'bromophenyl)thiophene as colorless liquid boiling at 167°-170°/~0.2 mm.

reactant | 2-(hydroxymethyl)-5-(3'-bromophenyl)thiophene | 4 mM | OCC=1SC(=CC1)C1=CC(=CC=C1)Br | C11H9BrOS
reactant | triethylamine | 10 mM, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | t-butyldimethylchlorosilane | 10 mM, 1.5 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 2-(t-butyldimethylsilyloxymethyl)-5-(3'bromophenyl)thiophene | 0.99 g | [Si](C)(C)(C(C)(C)C)OCC=1SC(=CC1)C1=CC(=CC=C1)Br | C17H23BrOSSi
